US06835844B2
Next, 40.0 g (0.39 mol) of triethylamine was added dropwise to a solution of 52.1 g of 2,4-bis(3-chloropropionylthiomethyl)-1,3-dithiolan prepared above and dissolved in 195 g of acetone at 2 to 50° C. in 1 hour. They were allowed to react at the same temperature for 1.5 hours, with stirring, to which 520 g of water was added. The resultant mixture was treated with 520 g of toluene to extract the reaction product. The extract organic phase (toluene solution) was washed with water until the aqueous phase turned neutral. Then, the organic phase was separated out, incorporated with 0.12 g of 4-methoxyphenol as a polymerization inhibitor, and distilled under a vacuum to be concentrated while removing toluene, to obtain a lightly yellowish, transparent liquid as the crude product. The crude product thus prepared was purified by silica gel column chromatography (developing solvent: hexane/ethyl acetate mixture), to obtain 24.6 g (0.10 mol) of 2,4-bis(acryloylthiomethyl)-1,3-dithiolan.

reactant | triethylamine | 0.39 mol, 40.0 g | C(C)N(CC)CC | C6H15N
reactant | 2,4-bis(3-chloropropionylthiomethyl)-1,3-dithiolan | 52.1 g | ClCCC(=O)SCC1SCC(S1)CSC(CCCl)=O | C11H16Cl2O2S4
reactant | water | 520 g | O | H2O
reactant | toluene | 520 g | C1(=CC=CC=C1)C | C7H8
solvent | acetone | 195 g | CC(=O)C | C3H6O
product | 2,4-bis(acryloylthiomethyl)-1,3-dithiolan | 0.10 mol, 24.6 g | C(C=C)(=O)SCC1SCC(S1)CSC(C=C)=O | C11H14O2S4
